US07109360B1
3-Methoxy-8α-estra-1,3,5(10)-trien-16β-ol
A solution of 3.50 g (9.60 mmol) of 17α-bromo-3-methoxy-8α-estra-1,3,5(10)-trien-16β-ol, 3.50 g (12.03 mmol) of tributyl tin hydride and 50 mg of azobisisobutyronitrile in 30 ml of dry tetrahydrofuran is refluxed for 2 hours while being stirred in an argon atmosphere. For working-up, it is allowed to cool, concentrated by evaporation in a vacuum in a Rotavapor, and the residue is taken up in ethyl acetate (300 ml). After the organic phase is washed with aqueous hydrochloric acid, water and brine, it is dried on sodium sulfate. The residue is chromatographed on silica gel (dichloromethane/ethyl acetate, 9:1), yield 2.70 g (98%).

reactant | 17α-bromo-3-methoxy-8α-estra-1,3,5(10)-trien-16β-ol | 9.60 mmol, 3.50 g | Br[C@H]1[C@]2(C)[C@@H](C[C@@H]1O)[C@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC | C19H25BrO2
reactant | tributyl tin hydride | 12.03 mmol, 3.50 g | C(CCC)[SnH](CCCC)CCCC
reactant | azobisisobutyronitrile | 50 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-Methoxy-8α-estra-1,3,5(10)-trien-16β-ol | COC1=CC=2CC[C@@H]3[C@@H]4C[C@@H](C[C@@]4(C)CC[C@@H]3C2C=C1)O | C19H26O2
